US06743810B2
Analogously to Example 1.7, ethyl 4-(2-ethoxycarbonyl-1-{6-[3-(pyridin-2-ylamino)propoxy]-1H-indol-3-yl}ethyl)benzoate, prepared analogously to Example 1.1-1.6, is stirred with dioxane/1N NaOH, giving 4-(2-carboxy-1-{6-[3-(pyridin-2-ylamino)propoxy]-1H-indol-3-yl}ethyl)benzoic acid.

reactant | ethyl 4-(2-ethoxycarbonyl-1-{6-[3-(pyridin-2-ylamino)propoxy]-1H-indol-3-yl}ethyl)benzoate | C(C)OC(=O)CC(C1=CNC2=CC(=CC=C12)OCCCNC1=NC=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C30H33N3O5
solvent | dioxane | 1N | O1CCOCC1 | C4H8O2
product | 4-(2-carboxy-1-{6-[3-(pyridin-2-ylamino)propoxy]-1H-indol-3-yl}ethyl)benzoic acid | C(=O)(O)CC(C1=CNC2=CC(=CC=C12)OCCCNC1=NC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C26H25N3O5
